US04416884
6-Chloroquinaldine (11 g) was dissolved in 15 ml of concentrated sulfuric acid and the solution was ice-cooled. Then, a solution of 7.1 g of potassium nitrate dissolved in 20 ml of concentrated sulfuric acid was added to the solution dropwise, during which operation the reaction temperature was maintained at 10° C. or less. After completion of addition the mixture was agitated at the same temperature as above for 1 hour and then poured onto 200 g of ice. Subsequently, the mixture was rendered alkaline with 10% sodium hydroxide, taking care that the internal temperature should not be raised to above 20° C., thus forming a pale yellow precipitate. The precipitate was collected by filtration, washed with water and recrystallized from ethanol to obtain 12.3 g of 5-nitro-6-chloroquinaldine as pale yellow rhombic crystals having a melting point of 123° to 124° C.

reactant | 6-Chloroquinaldine | 11 g | ClC=1C=C2C=CC(=NC2=CC1)C | C10H8ClN
reactant | potassium nitrate | 7.1 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 5-nitro-6-chloroquinaldine | 12.3 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1Cl)C | C10H7ClN2O2
